US05652242
Borane-dimethyl sulphide complex (10M, 10.3 ml) was added during 15 minutes to a stirred mixture of 1-tert-butyl (3R)-3-methylsuccinate (12.9 g) and THF (200 ml) which had been cooled to -10° C. and placed under an atmosphere of argon. The mixture was stirred at -10° C. for 30 minutes. The mixture was allowed to warm to room temperature and was stirred for 1 hour. The mixture was recooled to 5° C. and methanol (50 ml) was added portionwise. The mixture was allowed to warm to room temperature and was stirred for 30 minutes. The mixture was evaporated and the residue was partitioned between dichloromethane (100 ml) and water (100 ml). The organic phase was filtered through phase separating paper and evaporated to give tert-butyl (3R)-4-hydroxy-3-methylbutyrate as an oil (11 g); NMR(CDCl3) δ 3.55(2H,m), 2.1-2.4(3H,m), 1.46(9H,s), 0.98(3H,d).

reactant | 1-tert-butyl (3R)-3-methylsuccinate | 12.9 g | C[C@H](CC(=O)OC(C)(C)C)C(=O)[O-]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | tert-butyl (3R)-4-hydroxy-3-methylbutyrate | 11 g | OC[C@@H](CC(=O)OC(C)(C)C)C | C9H18O3
